US07501421B2
Preparation of 4-[6-(1-naphthylsulfanyl)benzothiazol-2-yl]piperazine-1-carboxylic acid benzyl ester
A mixture of 4-(6-iodobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester (0.370 g, 0.77 mmol), 1-napthalenethiol (0.124 g, 0.77 mmol), CuI (0.015 g, 0.08 mmol), and K2CO3 (0.213 g, 0.77 mmol) in isopropanol was heated at 90° C. overnight, cooled to 25° C., diluted with 20% MeOH in CH2Cl2, and filtered through a pad of silica gel. The filtrate was concentrated in vacuo to provide the title compound which used in Example 41 without further purification.

reactant | 4-(6-iodobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 0.77 mmol, 0.370 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)I | C19H18IN3O2S
reactant | 1-napthalenethiol | 0.77 mmol, 0.124 g | C1(=CC=CC2=CC=CC=C12)S | C10H8S
reactant | K2CO3 | 0.77 mmol, 0.213 g | C(=O)([O-])[O-].[K+].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.08 mmol, 0.015 g | [Cu]I
product | 4-[6-(1-naphthylsulfanyl)benzothiazol-2-yl]piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)SC2=CC=CC1=CC=CC=C21 | C29H25N3O2S2
